US07576135B2
2-(3,4-difluoroanilino)-2-oxoacetic acid methyl ester
In a manner similar to that employed in Referential Example 242, the title compound was prepared from 3,4-difluoroaniline and methyl chlorooxoacetate.

reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | methyl chlorooxoacetate | ClC(C(=O)OC)=O | C3H3ClO3
product | 2-(3,4-difluoroanilino)-2-oxoacetic acid methyl ester | COC(C(=O)NC1=CC(=C(C=C1)F)F)=O | C9H7F2NO3
